Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
shortness of breath, fever 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with medical history notable for COPD, 
hypertension, hyperlipidemia, stage I lung cancer s/p cyberknife 
(followed at ___), hypothyroidism who presented to Urgent Care 
on ___ with fever, shortness of breath transferred to ED due to 
concern for PNA and COPD exacerbation.

Per patient, she was in her usual state of health and saw her 
PCP on ___, when she received her pneumonia vaccine. On 
___ she developed symptoms consistent with her prior UTIs, 
including frequency and burning, and was started on macrobid. In 
the morning on ___, she developed a fever to 103 and acute 
shortness of breath. She reported difficulty walking down the 
hallway due to dyspnea. 

She presented to Urgent Care, where evaluation was concerning 
for desaturation to the ___. The decision was made to transfer 
her to the ED for further evaluation.
 
Past Medical History:
Ascending Aortic Aneurysm s/p repair  
Hypertension  
Dyslipidemia  
Colonic polyps  
Renal Insufficiency 
History of ischemic CVA ___ visual disturbance)  
COPD/Asthma  
Uterine cancer  
Stage I  lung cancer s/p cyberknife therapy
Giant Cell Arteritis/Polymyalgia Rheumatica (no longer on 
steroids) 
Obesity  
Elevated HgbA1c (while on steroids)  
Hypothyroidism  
History of + PPD  
Elevated CRP  
Colovesicular fistula and Diverticulitis  
Past Surgical History:  
s/p Total Abd Hysterectomy  
s/p Temporal artery biopsy  
s/p Tonsillectomy  
s/p Placement of left-sided ureteral stent, sigmoid colectomy,  
takedown of colovesicular fistula, mobilization of splenic  
flexure and diverting loop ileostomy  
s/p Ileostomy takedown

 
Social History:
___
Family History:
Mother with abd aortic aneurysm. Both parents
with CVAs

 
Physical Exam:
Admission:
VS: 98 147/65 62 18 94% 2L  
GENERAL: NAD, resting in bed 
HEENT: AT/NC, EOMI, PERRL, MMM
NECK: supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: wheezing throughout, good air movement, breathing 
comfortably without use of accessory muscles  
ABDOMEN: nondistended, nontender in all quadrants, no 
rebound/guarding
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

Discharge:
VS: T 98.2 HR 51 BP 136/82 RR 18 SaO2 93%RA, 89-95% ambulatory
GENERAL: NAD, sitting up in bed
NECK: no LAD, no JVD
HEART: RRR, S1/S2, no m/g/r appreciated
LUNGS: no accessory muscle usage, lungs with end expiratory 
wheezing throughout. No crackles or rhonchi appreciated
ABDOMEN: +BS, nondistended, nontender, no organomegaly
EXTREMITIES: 2+ pulses, no cyanosis, clubbing, or edema
NEURO: Motor and sensory persevered throughout
 
Pertinent Results:
Admission:
___ 08:10PM   PLT COUNT-196
___ 08:10PM   NEUTS-89.9* LYMPHS-4.1* MONOS-4.0* EOS-1.2 
BASOS-0.4 IM ___ AbsNeut-12.68* AbsLymp-0.58* AbsMono-0.57 
AbsEos-0.17 AbsBaso-0.06
___ 08:10PM   WBC-14.1*# RBC-4.40 HGB-14.2 HCT-41.6 MCV-95 
MCH-32.3* MCHC-34.1 RDW-13.8 RDWSD-47.9*
___ 08:10PM   proBNP-1339*
___ 08:10PM   estGFR-Using this
___ 08:10PM   GLUCOSE-107* UREA N-22* CREAT-1.0 SODIUM-132* 
POTASSIUM-3.6 CHLORIDE-94* TOTAL CO2-26 ANION GAP-16
___ 01:49AM URINE  RBC-8* WBC-3 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 01:49AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 01:49AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 01:49AM URINE  UHOLD-HOLD
___ 01:49AM URINE  HOURS-RANDOM
___ 06:15AM   PLT COUNT-180
___ 06:15AM   WBC-8.8 RBC-4.04 HGB-13.0 HCT-39.0 MCV-97 
MCH-32.2* MCHC-33.3 RDW-14.2 RDWSD-50.3*
___ 06:15AM   CALCIUM-9.3 PHOSPHATE-3.9 MAGNESIUM-1.9
___ 06:15AM   GLUCOSE-158* UREA N-22* CREAT-1.0 SODIUM-141 
POTASSIUM-3.3 CHLORIDE-101 TOTAL CO2-26 ANION GAP-17

Discharge:
___ 06:25AM BLOOD WBC-7.8 RBC-4.25 Hgb-13.6 Hct-41.6 MCV-98 
MCH-32.0 MCHC-32.7 RDW-14.5 RDWSD-51.8* Plt ___
___ 06:25AM BLOOD Plt ___
___ 06:25AM BLOOD Glucose-87 UreaN-27* Creat-1.0 Na-142 
K-3.9 Cl-102 HCO3-27 AnGap-17

Imaging:
CXR:
TECHNIQUE:  Chest PA and lateral
COMPARISON:  ___.
FINDINGS: 
The lungs remain hyperexpanded, to a similar degree.  No new 
consolidation. 
Postsurgical changes in the chest, tortuosity of the aorta and 
heart size are
stable.  No pleural effusion or pneumothorax seen.
IMPRESSION: 
No significant change in the appearance of the chest.

CXR PORT:
INDICATION:  ___ year old woman with COPD exacerbation// Eval for 
interval change
TECHNIQUE:  Chest PA and lateral
COMPARISON:  ___.
FINDINGS: 
The lungs remain hyperexpanded, to a similar degree.  No new 
consolidation. 
Postsurgical changes in the chest, tortuosity of the aorta and 
heart size are
stable.  No pleural effusion or pneumothorax seen.
IMPRESSION: 
No significant change in the appearance of the chest.

CTA:
The patient is status post ascending aortic replacement.  There 
is a
crescentic focal fluid collection adjacent to the ascending 
aorta measuring
1.7 x 2.4 cm in maximum axial ___, which is stable 
compared to prior,
and likely represents a postoperative seroma (series 3, image 
36).
 
There is a stable appearance of the descending thoracic aortic 
aneurysm, which
measures approximately 4.9 x 5.4 cm in maximum axial ___ 
on today's
examination (series 3, image 91).  There is moderate 
atherosclerotic
calcification throughout the abdominal aorta without evidence of 
abdominal
aortic aneurysm.  The celiac axis, SMA, ___, renal and iliac 
arteries and
their major branches are patent with no signs of occlusive or 
aneurysmal
disease.
 
CHEST:
HEART AND VASCULATURE: There is enlargement of the main 
pulmonary artery
measuring up to 3.6 cm, which suggests pulmonary arterial 
hypertension.  The
heart and pericardium are within normal limits. No pericardial 
effusion is
seen.
 
AXILLA, HILA, AND MEDIASTINUM: Multiple subcentimeter 
mediastinal lymph nodes
are stable compared to prior.  No new axillary, mediastinal, or 
hilar
lymphadenopathy is present.  No mediastinal mass.
 
PLEURAL SPACES: No pleural effusion or pneumothorax.
 
LUNGS/AIRWAYS: Mild centrilobular emphysema.  Linear scarring or 
atelectasis
is seen within the lower lobes bilaterally.  There are multiple 
foci of
___ opacification, particularly within the inferior 
right upper lobe,
which are unchanged compared to the most recent examination 
likely reflecting
airways disease.  A ground-glass opacity at the right apex is 
also unchanged. 
There are no new foci of opacification to suggest active 
infection.  Calcified
granuloma seen within the left upper lobe.  No suspicious lung 
nodules are
visualized.  The airways are patent to the level of the 
segmental bronchi
bilaterally.
 
ABDOMEN:
HEPATOBILIARY: Peripheral geographic foci of hyperenhancement 
within the liver
are unchanged compared to prior, and likely perfusional in 
nature (series 3,
image 85, 98, 127).  An additional subcentimeter round focus of
hyperenhancement within the right lobe of the liver may 
represent a hemangioma
(series 3, image 24).  A subcentimeter hypodensity within the 
right lobe of
the liver demonstrated arterial hyperenhancement on the prior 
examination,
also likely a hemangioma (series 3, image 118). Otherwise, the 
liver
demonstrates homogenous attenuation throughout.  There is no 
evidence of
intrahepatic or extrahepatic biliary dilatation.  The 
gallbladder is within
normal limits.
 
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of
focal lesions or pancreatic ductal dilatation. There is no 
peripancreatic
stranding.
 
SPLEEN: The spleen shows normal size and attenuation throughout, 
without
evidence of focal lesions.
 
ADRENALS:  The right and left adrenal glands are normal in size 
and shape.
 
URINARY: A 1.8 cm simple cyst is seen within the lower pole of 
the right
kidney.  Multiple subcentimeter hypodensities are seen within 
the kidneys
bilaterally, which are too small to characterize, but likely 
represent simple
cysts.  Otherwise, kidneys are of normal and symmetric size with 
normal
nephrogram.  There is no evidence of enhancing renal lesions or
hydronephrosis. There is no perinephric abnormality.
 
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate
normal caliber, wall thickness, and enhancement throughout.  The 
patient is
status post sigmoidectomy.  The remaining colon and rectum are 
within normal
limits.  The appendix is normal.  There is no free 
intraperitoneal fluid or
free air.
 
PELVIS:
 
The urinary bladder and distal ureters are unremarkable.  There 
is no free
fluid in the pelvis.
 
REPRODUCTIVE ORGANS: The patient is status post hysterectomy.  
No adnexal
masses are visualized, although this region is inadequately 
evaluated due to
streak artifact from the bilateral hip arthroplasties.
 
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There
is no pelvic or inguinal lymphadenopathy.
 
BONES AND SOFT TISSUES: The patient is status post bilateral 
total hip
arthroplasties without evidence of hardware complication.  
Sternotomy wires
appear intact.  Degenerative changes are seen throughout the 
thoracolumbar
spine with moderate levoscoliosis of the lumbar spine.  There is 
no evidence
of worrisome osseous lesions or acute fracture.  The patient is 
status post
ventral hernia repair.  There is a diastasis of the mesh 
containing a
nonobstructed loop of small bowel (series 3, image 182).
 
 
IMPRESSION:
 
 
1. Status post ascending aortic aneurysm repair with a stable 
crescentic
postoperative seroma.
2. Unchanged appearance of the descending thoracic aortic 
aneurysm measuring
up to 4.9 cm in maximum axial ___ on today's examination. 
 No abdominal
aortic aneurysm.
3. Unchanged ___ opacities within the lungs, 
particularly within the
right upper lobe, suggestive of chronic airways disease.  No new 
foci of
opacifications to suggest active lung infection.
4. Status post ventral hernia repair with shallow diastasis of 
the hernia mesh
containing a non-obstructed loop of small bowel.
An addendum will be added with final measurements of the 
descending aortic
aneurysm after the 3D   reformats are available.

Micro:
 URINE CULTURE (Final ___:    NO GROWTH. 
___ 6:15 am BLOOD CULTURE

   Blood Culture, Routine (Pending): 
___ 1:03 pm BLOOD CULTURE      #2. 

   Blood Culture, Routine (Pending): 
 
Brief Hospital Course:
Ms. ___ is a ___ female with medical history notable for COPD, 
hypertension, hyperlipidemia, stage I lung cancer s/p cyberknife 
(followed at ___), hypothyroidism who presented to Urgent Care 
on ___ with fever, shortness of breath transferred to ED due to 
concern for PNA and COPD exacerbation. She also complained of 
dysuria and frequency suggestive of a UTI.

ACUTE ISSUES:
#COPD Exacerbation:
Patient reports that she was in her usual state of health and 
saw her PCP on ___, when she received her pneumonia 
vaccine. In the morning on ___, she developed a fever 
to 103 and acute shortness of breath. She reported difficulty 
walking down the hallway due to dyspnea. She presented to Urgent 
Care, where evaluation was concerning for desaturation to the 
___. 

She had a leukocytosis of 14.1 on admission and a CXR revealing 
blunted costophrenic angles bilaterally, and findings suggestive 
of a COPD exacerbation. She received nebulizer therapy, 
azithromycin and ceftriaxone, prednisone 60mg PO daily for 5 
days, azithromycin 250mg PO daily and ceftriaxone 1g IV daily 
for 4 days as well. Fever and leukocytosis improved, as did her 
oxygen saturation. She was transitioned from 2L oxygen to room 
air, until she was able to maintain saturations from 89-93% on 
room air while ambulating.

She also had a CTA as indicated for monitoring her descending 
aortic aneurysm in addition to garnering information regarding 
her previously treated lung cancer and potential lung 
mycobacterial focus. CTA showed overall stable ___ 
opacities and scarring consistent with chronic changes from 
prior infection. Final CTA read was pending on discharge.

#UTI:
On ___ she developed symptoms consistent with her 
prior UTIs, including frequency and burning, and was started on 
macrobid. Urine cultures in the hospital grew pan-susceptible E. 
coli so she was treated with ceftriaxone 1g IV daily for 4 days 
as described above. Resolution of her GU symptoms occurred the 
morning following her admission.

CHRONIC ISSUES:
#Thoracic descending aortic aneurysm:
Followed by Dr. ___. She received a CTA for surveillance 
of this issue. She will follow up with Dr. ___ will 
review the CTA images.

#Hypothyroidism:
She was continued on home levothyroxine.

#Afib:
She was continued on home Eliquis and metoprolol.

#HTN:
She was continued on home losartan.

#Depression:
She was continued on home fluoxetine and buproprion. She was 
also monitored for hyponatremia with buproprion due to lowered 
seizure threshold.

TRANSTIONAL ISSUES:
[]Follow up on final CTA scan results with respect to: 1. Her 
thoracic descending aortic aneurysm. 2. Her previously treated 
lung cancer. 3. A mycobacterial focus previously suggested on 
her lung scan.
[]Follow up with oncologist per recommendations
[]Follow up with PCP for COPD management 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath 
2. Apixaban 5 mg PO BID 
3. Atorvastatin 20 mg PO QPM 
4. BuPROPion (Sustained Release) 150 mg PO BID 
5. Colchicine 0.6 mg PO DAILY 
6. diclofenac sodium 1 % topical PRN 
7. FLUoxetine 40 mg PO DAILY 
8. Fluticasone Propionate 110mcg 2 PUFF IH BID 
9. Hydrochlorothiazide 25 mg PO DAILY 
10. Levothyroxine Sodium 200 mcg PO 5X/WEEK (___) 
11. Losartan Potassium 50 mg PO DAILY 
12. Metoprolol Tartrate 100 mg PO QAM 
13. Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H 
14. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
15. Ranitidine 150 mg PO DAILY 
16. Calcium Carbonate 500 mg PO BID 
17. Vitamin D 1000 UNIT PO DAILY 
18. Multivitamins 1 TAB PO DAILY 
19. B-100 Complex (vit B complex ___ combo no.2) 100 mg oral 
DAILY 
20. Stiolto Respimat (tiotropium-olodaterol) 2.5-2.5 
mcg/actuation inhalation DAILY 
21. Ascorbic Acid ___ mg PO BID 
22. Levothyroxine Sodium 400 mcg PO 2X/WEEK (___) 
23. Metoprolol Tartrate 50 mg PO QPM 

 
Discharge Medications:
1.  Azithromycin 250 mg PO Q24H Duration: 1 Day 
1 more dose of 250mg to complete your 5 day course 
RX *azithromycin 250 mg 1 tablet(s) by mouth daily Disp #*1 
Tablet Refills:*0 
2.  PredniSONE 60 mg PO DAILY Duration: 1 Day 
1 more dose of 60mg prednisone to complete your 5 day course 
RX *prednisone 20 mg 3 tablet(s) by mouth once on ___ Disp #*3 
Tablet Refills:*0 
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath  
4.  Apixaban 5 mg PO BID  
5.  Ascorbic Acid ___ mg PO BID  
6.  Atorvastatin 20 mg PO QPM  
7.  B-100 Complex (vit B complex ___ combo no.2) 100 mg oral 
DAILY  
8.  BuPROPion (Sustained Release) 150 mg PO BID  
9.  Calcium Carbonate 500 mg PO BID  
10.  Colchicine 0.6 mg PO DAILY  
11.  diclofenac sodium 1 % topical PRN analgesia  
12.  FLUoxetine 40 mg PO DAILY  
13.  Fluticasone Propionate 110mcg 2 PUFF IH BID  
14.  Hydrochlorothiazide 25 mg PO DAILY  
15.  Levothyroxine Sodium 200 mcg PO DAILY  
16.  Levothyroxine Sodium 400 mcg PO 2X/WEEK (___)  
17.  Losartan Potassium 50 mg PO DAILY  
18.  Metoprolol Tartrate 100 mg PO QAM  
19.  Metoprolol Tartrate 50 mg PO QPM  
20.  Multivitamins 1 TAB PO DAILY  
21.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate  
22.  Ranitidine 150 mg PO DAILY  
23.  Stiolto Respimat (tiotropium-olodaterol) 2.5-2.5 
mcg/actuation inhalation DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
COPD exacerbation
UTI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of you at ___ 
___.

Why was I in the hospital?
-You had worsening of your lung disease named ___ 
___ Pulmonary Disorder (COPD). This caused your body's 
oxygen levels to drop and made it difficult for you to breathe.
-You also had burning and an increased frequency of using the 
bathroom to urinate. This was likely due to a urinary tract 
infection.

What was done while I was in the hospital?
-Xrays were taken that showed you had a worsening of your lung 
condition.
-A laboratory study of your urine showed that there were 
bacteria causing an infection.
-You were started on antibiotics to treat your lungs and the UTI
-You were started on a medication called prednisone as well as 
oxygen to help with your breathing.
-Once you were free from the worsening condition, you were 
slowly transitioned away from the oxygen towards breathing room 
air.
-You had a set of pictures (CAT scan) to check on the condition 
in your main blood vessel (aortic aneurysm) as well as confirm 
the status of your previously treated lung cancer and lung 
disease. There were no new findings that were concerning, 
although Dr. ___ will follow up with final read with 
respect to your aneurysm.

What should I do when I go home?
-It is very important that you continue taking the medications 
for your lung condition and heart conditions which you were 
previously prescribed.
-It is important to make an appointment with your primary care 
doctor to follow up on your recovery and to make any medication 
adjustments for your continued health, including follow up on 
the results of your scan giving information about your aneurysm.

Best wishes, 
Your ___ team
 
Followup Instructions:
___